US07939528B2
1-{4-[(4-amino-3-nitrophenyl)oxy]phenyl}ethanone (437 mg) was dissolved in 1:1 ethyl acetate: methanol and hydrogenated over 500 mg of 10% Pd/carbon (wet, Degussa type) under an atmosphere of H2 gas. After 24 hours, the reaction was filtered through Celite and concentrated to give crude 1-{4-[(3,4-diaminophenyl)oxy]phenyl}ethanol which was used without further purification. (M+1) 245.2, 1.05 min (LC/MS method A)

reactant | 1-{4-[(4-amino-3-nitrophenyl)oxy]phenyl}ethanone | 437 mg | NC1=C(C=C(C=C1)OC1=CC=C(C=C1)C(C)=O)[N+](=O)[O-] | C14H12N2O4
reactant | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd carbon | 500 mg | [Pd].[C]
product | 1-{4-[(3,4-diaminophenyl)oxy]phenyl}ethanol | NC=1C=C(C=CC1N)OC1=CC=C(C=C1)C(C)O | C14H16N2O2
